US05453421
(3 S-trans)-N-(6-Cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-yl)-1-(3-ethynylphenyl)-5-phenyl-1,2,3-triazole-5-carboxamide
The title compound was prepared from (3S-trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (the title B compound of Example 1) and 1-(3-ethynylphenyl)-5-phenyl-1,2,3-triazole-5-carboylic acid by the same method as described for the title compound of Example 2 to afford a white solid, m.p. 115°-125° C. (softens at 81° C.). [α]D =-110.1° (c=0.69, MeOH).

reactant | (3S-trans)-4-amino-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | 1-(3-ethynylphenyl)-5-phenyl-1,2,3-triazole-5-carboylic acid | C(#C)C=1C=C(C=CC1)N1NN=CC1(C(=O)O)C1=CC=CC=C1 | C17H13N3O2
solvent | MeOH | CO | CH4O
product | (3 S-trans)-N-(6-Cyano-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-yl)-1-(3-ethynylphenyl)-5-phenyl-1,2,3-triazole-5-carboxamide | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)NC(=O)C2(C=NNN2C2=CC(=CC=C2)C#C)C2=CC=CC=C2)C1 | C29H25N5O3
